US06458772B1
a) Synthesis of 4,4-bis(N-CBZ-L-valyloxymethyl)-but-1-ene
To a solution of 2-allyl-1,3-propandiol (2.32 g, 20 mmole), N-CBZ-L-valine (10.06 g, 40 mmole) and DMAP (0.488 g, 4 mmole) in 120 ml dichloromethane was added DCC (9.08 g, 44 mmole) in portions and the mixture was stirred overnight at room temperature. The mixture was cooled to 5° C. and the urethane was filtered. The filtrate was evaporated and the product was isolated by silica gel column chromatography. Yield: 9.0 g

reactant | 2-allyl-1,3-propandiol | 20 mmole, 2.32 g | C(C=C)C(CO)CO | C6H12O2
reactant | N-CBZ-L-valine | 40 mmole, 10.06 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | DCC | 44 mmole, 9.08 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 4 mmole, 0.488 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4,4-bis(N-CBZ-L-valyloxymethyl)-but-1-ene | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC=C)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C32H42N2O8
